* Circuit simulation lab 2 t<0


* current values are saved
.options savecurrents

* voltage source
V1 1 0 dc 5.23334661904;
*resistors
R1 1 2 1.02604398505k;
R2 2 3 2.03674964113k;
R3 2 5 3.09851037606k;
R4 0 5 4.10284190715k;
R5 5 6 3.13763431318k;
R6 0 7 2.01979218864k;
R7 9 8 1.03837216927k;
*voltage controlled current source(Ib)
G1 6 3 2 5 7.03552682478m;
*voltage source to sense control current (Id)
*series with the rest of the circuit for the current sensed to be the same as the resistor
v2 7 9 dc 0;
*current controlled voltage source(Vd)
H1 5 8 v2 8.12635172903k;
******************
.control
op
*echo "op_TAB"
print all
*echo "op_END"
quit
.endc
.end